US04025640
To a suspension of 10.9 g of ethyl 4-formyl-1,2,5-trimethylpyrrole-3-carboxylate in 40 ml of methanol is added dropwise under nitrogen 5.6 g of sodium borohydride in methanol while maintaining the reaction temperature below 50° C. after total addition the reaction mixture is stirred at ambient temperature for 4 hours, then 90 ml of water introduced and the reaction mixture saturated with potassium carbonate and extracted with ether. The combined ether extracts are dried and concentrated in vacuo leaving a yellow solid which is recrystallized from cyclohexane to give ethyl 4-(hydroxymethyl)-1,2,5-trimethylpyrrole-3-carboxylate, mp 184°-186° C.

reactant | ethyl 4-formyl-1,2,5-trimethylpyrrole-3-carboxylate | 10.9 g | C(=O)C=1C(=C(N(C1C)C)C)C(=O)OCC | C11H15NO3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | 90 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | ethyl 4-(hydroxymethyl)-1,2,5-trimethylpyrrole-3-carboxylate | OCC=1C(=C(N(C1C)C)C)C(=O)OCC | C11H17NO3
